** sch_path: sim/startup-ramp/testbench/tb_startup_ramp.sch
**.subckt tb_startup_ramp
VSLOW VDDS 0 pwl(0 0 't_slow' 'vsup')
.save i(vslow)
VFAST VDDF 0 pwl(0 0 't_fast' 'vsup')
.save i(vfast)
VDEGN VDDN 0 pwl(0 0 1n 'vsup')
.save i(vdegn)
XSLOW VREFS GS VDDS 0 bandgap_core
XSUS GS VREFS VDDS 0 startup_injector
XFAST VREFF GF VDDF 0 bandgap_core
XSUF GF VREFF VDDF 0 startup_injector
XDEGN VREFN GN VDDN 0 bandgap_core
VDEG VDDG 0 pwl(0 0 1n 'vsup')
.save i(vdeg)
XDEG VREFG GG VDDG 0 bandgap_core
XSUG GG VREFG VDDG 0 startup_injector
**** begin user architecture code


* Put the XDEG copy (injector attached) and the XDEGN control copy (no
* injector) in the degenerate zero-current state at t = 0: their mirror gates
* start at the supply rail, which is where the all-off solution parks them,
* while every other node starts at 0 V (UIC). Nothing holds GG/GN there after
* t = 0 -- .ic only sets the transient's starting point -- so whether either
* circuit leaves that state is decided by the circuit, not by the deck.
.ic v(GG)='vsup' v(GN)='vsup'


**** end user architecture code
**.ends

* expanding   symbol:  design/bandgap_core.sym # of pins=4
** sym_path: design/bandgap_core.sym
** sch_path: design/bandgap_core.sch
.subckt bandgap_core VOUT GDRV VDD VSS
*.opin VOUT
*.iopin GDRV
*.iopin VDD
*.iopin VSS
**** begin user architecture code


* ---- Kuijk core parameters (issue #8) ----
* PNP emitter-area ratio N is built ONLY from paralleled unit devices:
*   N = (n_pnp_ptat * 11.56 um2) / (n_pnp_ctat * 0.4624 um2)
* Keep both counts equal to hold the pair's measured dVBE while lowering the
* per-unit current and sigma(dVBE); raise n_pnp_ptat alone for more PTAT.
.param n_pnp_ctat=8
.param n_pnp_ptat=8
* res_high_po unit segment: W = r_w um, L = r_lseg um (R ~ 380 + 325*L ohm)
.param r_w=1
.param r_lseg=5
* segment counts. K = R2/R1 (each leg has its own head resistance, so
* K != n_r2/n_r1 exactly -- see the header comment). n_r2 was RESIZED 54 -> 50
* by issue #99 (see RESIZE STATUS below); n_r1 held at 7. The #46 single-
* device investigation (why the OLD n_r2=54 was chosen, and why +1 was
* rejected there) is retained in the header Sizing rationale, superseded by
* the resize.
* RESIZE STATUS (issue #99 / DR-003, RESOLVED): n_r1/n_r2 are now sized
* against the ROUTED LAYOUT's real chained-array topology -- the ground truth
* the fabricated part experiences -- NOT the single-res_high_po-device-per-leg
* model this schematic's own XR1/XR2A/XR2B lines still draw. Issue #98/DR-003
* (sim/res-array-head-resistance/) established that the routed layout draws
* each leg as N separately-contacted unit instances in series
* (layout/bin/gen_bandgap_routed.py's bus_res_series), paying real per-instance
* head resistance: at the old n_r2=54 that made the REAL part's K=R2/R1 read
* 8.1474 vs the single-device model's 7.4973, pushing VOUT(27 degC) to
* ~1.233 V (outside the draft +/-1% window 1.188..1.212 V) at all 5
* (process,supply) corners and collapsing regulation at ff/2.97 V and
* fs/2.97 V. Resizing n_r2 54 -> 50 (n_r1 left at 7 so branch current -- and
* therefore hot-corner headroom -- is not raised while K is corrected) brings
* the real chained topology's K back to 7.576 and VOUT(27 degC) back to
* ~1.198 V, IN the +/-1% window at ALL 5 corners with NO hot-corner collapse,
* and the DR-002 downward 0..-16 trim range still covering. Full PVT + trim
* re-verification: sim/res-array-resize/records/ (issue #99).
* CONSEQUENCE for the single-device model: because these XR1/XR2A/XR2B lines
* still model each leg as ONE res_high_po device (omitting the per-instance
* head resistance the real part pays), simulating THIS schematic as-drawn
* (e.g. sim/output-voltage-tc's single-device tb_vref_tc, netlisted by xschem)
* now reads VOUT(27 degC) ~1.165 V -- LOW *by design*. That ~33 mV gap IS the
* head resistance the routed part uses to reach 1.198 V; it is not an error,
* and the single-device harness is no longer the sizing reference of record
* (DR-003: every single-device record models a topology the layout does not
* build). NEXT INCREMENT (not done here, per one-lever-per-increment): the
* routed layout generator (gen_bandgap_routed.py's N_R1/SCH_N_R2/N_R2_COARSE,
* currently still transcribing n_r2=54) must be re-transcribed to n_r2=50 and
* re-verified through klayout DRC/LVS -- see DR-003's closure and
* layout/matching-plan.md Section 7x.
.param n_r1=7
.param n_r2=50
* PMOS mirror multiplicities (unit device W=8u L=2u)
.param m_out=2
.param m_ampbias=2
* ---- Trim network (issue #13), DOWNWARD ONLY -- see DR-002 ----
* Ladder-tap length added to R2A/R2B equally (metal option, no switches).
* n_r2_trim: valid range 0..-16 only. r_lseg_trim: 1 um/code (~1.7 mV/code)
* in DR-002's original SINGLE-DEVICE model. Positive codes are REJECTED:
* this is the same R2/R1 ratio issue #46 found causes ff/2.97V, fs/2.97V
* hot-corner (>~123C) operating-point collapse at even a +5 um increase
* (n_r2=55). sim/trim-range-monotonicity/ reconfirms it for trim and finds
* codes +1/+2 ALSO collapse (VOUT -> ~2.8V) while +3/+4 happen not to --
* non-monotonic-in-code, i.e. no positive code is a certified-safe point,
* not a safe zone at +3/+4. Only downward (R2 decrease) moves away from
* that edge; confirmed monotonic, collapse-free to -16 across corners. See
* DR-002 and the sim record for the full case.
* LSB REVISION (issue #106, DR-002 revision): the routed layout's fine trim
* chain does NOT draw one length-tapped device -- it chains N separately-
* contacted res_high_po unit instances (layout/bin/gen_bandgap_routed.py's
* bus_res_series), each paying a real per-instance head/fringe resistance
* term this schematic's single-device XR2A/XR2B lines do not model (DR-003,
* sim/res-array-head-resistance/). Re-deriving DR-002's <=3.000 mV/code LSB
* comfort bound against that REAL chained topology at the adopted
* n_r1=7/n_r2=50 sizing (sim/trim-lsb-chained/) found the shipped
* r_lseg_trim=1 per-code step reads 3.12-3.15 mV/code across all 5 corners
* -- a real, measured violation of the comfort bound (smaller than an
* earlier, now-superseded estimate against an abandoned n_r1=6/n_r2=42
* sizing, but still a violation). Halving the fine unit's drawn length to
* 0.5 um fixes it: the per-instance head-resistance term (~379.7 ohm, the
* DOMINANT piece of the per-code step) is a PDK-model-card constant
* independent of the unit's drawn length, so only the smaller `rbody`
* fringe term shrinks -- re-verified at r_lseg_trim=0.5 to read
* 2.40-2.42 mV/code, PASS at all 5 corners, with the same certified 0..-16
* code range and downward span still clearing DR-002's 1.5x-of-3sigma
* coverage target. See sim/trim-lsb-chained/records/ for the full
* re-derivation. NEXT INCREMENT (not done here, per one-lever-per-
* increment): layout/bin/gen_bandgap_routed.py's
* R_LSEG_TRIM_UM/SCH_R_LSEG_TRIM_UM (currently still transcribing 1 um)
* must be re-transcribed to 0.5 um and the routed cell re-verified through
* klayout DRC/LVS -- klayout's extraction backend is not available in this
* run environment, so that is a follow-up issue, the same split issue #99
* used for #107/#108.
.param n_r2_trim=0
.param r_lseg_trim=0.5


**** end user architecture code
XMPOUT VOUT GDRV VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0 sd=0 mult='m_out' m='m_out'
XMPAMP TAIL GDRV VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0 sd=0 mult='m_ampbias' m='m_ampbias'
XAMP VB VA GDRV TAIL VDD VSS error_amp
XR2A VA VOUT VSS sky130_fd_pr__res_high_po W='r_w' L='r_lseg*n_r2+r_lseg_trim*n_r2_trim' mult=1 m=1
XR2B VB VOUT VSS sky130_fd_pr__res_high_po W='r_w' L='r_lseg*n_r2+r_lseg_trim*n_r2_trim' mult=1 m=1
XQ1 VSS VSS VA sky130_fd_pr__pnp_05v5_W0p68L0p68 m='n_pnp_ctat' mult='n_pnp_ctat'
XR1 VBQ VB VSS sky130_fd_pr__res_high_po W='r_w' L='r_lseg*n_r1' mult=1 m=1
XQ2 VSS VSS VBQ sky130_fd_pr__pnp_05v5_W3p40L3p40 m='n_pnp_ptat' mult='n_pnp_ptat'
.ends


* expanding   symbol:  design/startup_injector.sym # of pins=4
** sym_path: design/startup_injector.sym
** sch_path: design/startup_injector.sch
.subckt startup_injector GDRV VSENSE VDD VSS
*.iopin GDRV
*.ipin VSENSE
*.iopin VDD
*.iopin VSS
**** begin user architecture code


* ---- startup injector parameters (issue #10) ----
* m_ref  : units of the (W=1 L=20) diode-connected reference PMOS. Raising it
*          raises BOTH the release threshold and the residual current the cell
*          draws from GDRV once disengaged -- the two are the same current.
* m_sense: units of the (W=48 L=0.5) sense NMOS. Raising it lowers the release
*          threshold (better disengage, less traverse margin).
* m_pnp  : unit PNPs in the threshold reference. Raising it lowers VBE at the
*          sense current, i.e. lowers the release threshold.
* m_inj  : units of the (W=10 L=0.5) injector NMOS. Scales the eviction
*          current and the disengaged residual in the same proportion.
* m_clamp: units of the (W=4 L=1) railed-branch clamp NMOS MNC. Scales only
*          how hard the railed branch is evicted; MNC is off by more than a
*          threshold at every legitimate operating point, so this knob does
*          NOT trade against the disengaged residual the way m_ref does.
.param m_ref=1
.param m_sense=1
.param m_pnp=8
.param m_inj=1
.param m_clamp=1


**** end user architecture code
XMPC1 NC1 NC1 GDRV VDD sky130_fd_pr__pfet_g5v0d10v5 L=20 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult='m_ref' m='m_ref'
XMPC2 NG NG NC1 VDD sky130_fd_pr__pfet_g5v0d10v5 L=20 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult='m_ref' m='m_ref'
XMNS NG VSENSE NE VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=48 nf=1 ad=13.92 as=13.92 pd=96.58 ps=96.58 nrd=0.00604166666666667 nrs=0.00604166666666667 sa=0 sb=0 sd=0 mult='m_sense' m='m_sense'
XQS VSS VSS NE sky130_fd_pr__pnp_05v5_W0p68L0p68 m='m_pnp' mult='m_pnp'
XMNI GDRV NG VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0 sd=0 mult='m_inj' m='m_inj'
XMNC VDD VSENSE GDRV VSS sky130_fd_pr__nfet_g5v0d10v5 L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0 mult='m_clamp' m='m_clamp'
.ends


* expanding   symbol:  design/error_amp.sym # of pins=6
** sym_path: design/error_amp.sym
** sch_path: design/error_amp.sch
.subckt error_amp VINP VINN AOUT ITAIL VDD VSS
*.ipin VINP
*.ipin VINN
*.opin AOUT
*.iopin ITAIL
*.iopin VDD
*.iopin VSS
**** begin user architecture code


* ---- error-amp device multiplicities (issue #9 sizing) ----
* Unit geometry is fixed on the instances below; mult is the matching axis
* (sigma(Vth) scales as 1/sqrt(W*L*mult) in the PDK's own model).
* amp_m_in    : input-pair PMOS units   (W=20u L=10u each -> 3200 um^2 total)
* amp_m_nmirr : NMOS load/mirror units  (W=8u  L=20u each ->  640 um^2 total)
* amp_m_pmirr : PMOS mirror units       (W=6u  L=20u each ->  960 um^2 total)
* amp_m_cc    : MOS-capacitor units     (W=30u L=20u each -> 9600 um^2 total)
.param amp_m_in=16
.param amp_m_nmirr=4
.param amp_m_pmirr=8
.param amp_m_cc=16


**** end user architecture code
XMP1 D1 VINP ITAIL VDD sky130_fd_pr__pfet_g5v0d10v5 L=10 W=20 nf=1 ad=5.8 as=5.8 pd=40.58 ps=40.58 nrd=0.0145 nrs=0.0145 sa=0 sb=0
+ sd=0 mult='amp_m_in' m='amp_m_in'
XMP2 D2 VINN ITAIL VDD sky130_fd_pr__pfet_g5v0d10v5 L=10 W=20 nf=1 ad=5.8 as=5.8 pd=40.58 ps=40.58 nrd=0.0145 nrs=0.0145 sa=0 sb=0
+ sd=0 mult='amp_m_in' m='amp_m_in'
XMN1 D1 D1 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=20 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0 sd=0
+ mult='amp_m_nmirr' m='amp_m_nmirr'
XMN2 D2 D2 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=20 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0 sd=0
+ mult='amp_m_nmirr' m='amp_m_nmirr'
XMN3 AOUT D1 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=20 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0
+ sd=0 mult='amp_m_nmirr' m='amp_m_nmirr'
XMN4 PN D2 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=20 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0 sd=0
+ mult='amp_m_nmirr' m='amp_m_nmirr'
XMP4 AOUT PN VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=20 W=6 nf=1 ad=1.74 as=1.74 pd=12.58 ps=12.58 nrd=0.0483333333333333 nrs=0.0483333333333333
+ sa=0 sb=0 sd=0 mult='amp_m_pmirr' m='amp_m_pmirr'
XMP3 PN PN VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=20 W=6 nf=1 ad=1.74 as=1.74 pd=12.58 ps=12.58 nrd=0.0483333333333333 nrs=0.0483333333333333
+ sa=0 sb=0 sd=0 mult='amp_m_pmirr' m='amp_m_pmirr'
XMCC VDD AOUT VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=20 W=30 nf=1 ad=8.7 as=8.7 pd=60.58 ps=60.58 nrd=0.00966666666666667 nrs=0.00966666666666667
+ sa=0 sb=0 sd=0 mult='amp_m_cc' m='amp_m_cc'
.ends

.end
